* BFS17A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : June 1995
*
* PACKAGE : SOT23 DIE MODEL : BFW92A
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFS17A 1 2 3
Q1 6 5 7 7 BFW92A
* SOT23 parasitic model
             Lb  4 5 .4n 
             Le  7 8 .83n 
             L1  2 4 .35n 
             L2  1 6 .17n 
             L3  3 8 .35n 
             Ccb 4 6 71f 
             Cbe 4 8 2f 
             Cce 6 8 71f
*
* PHILIPS SEMICONDUCTORS                   Version:    1.0
* Filename:   BFW92A.prm                   Date: June 1995
*
.MODEL  BFW92A   NPN 
+            IS   = 2.429E-16 
+            BF   = 93.26 
+            NF   = 0.9912 
+            VAF  = 39.71 
+            IKF  = 0.2681 
+            ISE  = 2.408E-15 
+            NE   = 1.463 
+            BR   = 4.816 
+            NR   = 0.988 
+            VAR  = 7.422 
+            IKR  = 10 
+            ISC  = 4.039E-15 
+            NC   = 1.376 
+            RB   = 20.94 
+            IRB  = 0 
+            RBM  = 12.27 
+            RE   = 0.3698 
+            RC   = 1.105 
+            CJE  = 1.302E-12 
+            VJE  = 0.6 
+            MJE  = 0.2995 
+            CJC  = 8.263E-13 
+            VJC  = 0.5035 
+            MJC  = 0.2814 
+            CJS  = 1.5E-13 
+            VJS  = 0.75 
+            MJS  = 0 
+            XCJC = 0.0983 
+            TR   = 1E-09 
+            TF   = 3.117E-11 
+            XTF  = 296.7 
+            VTF  = 6 
+            ITF  = 0.8048 
+            PTF  = 0 
+            FC   = 0.8067 
.ENDS

